US04189607
To a mixture of 4.6 g of 2-(4-chloro-3-nitrophenyl) propionic acid and 250 mg of 10% palladium-on-charcoal in 50 ml of ethanol, was added dropwise 2.5 g of hydrazine hydrate under a stream of nitrogen. After the completion of the addition, the mixture was stirred at room temperature for one hour and then refluxed for 6 hours. The resulting mixture was cooled to room temperature, mixed with 250 mg of 10% palladium-on-charcoal and 2.5 g of hydrazine hydrate, and refluxed for 6 hours. After filtration, the filtrate was evaporated and dissolved in 20 ml of water. The aqueous solution was adjusted to pH 5-6 with 6 N hydrochloric acid and then concentrated to a volume of 20 ml. On standing overnight at room temperature, 3.0 g of 2-(m-aminophenyl)propionic acid was obtained; m.p. 98°-100° C.; Analysis--Calculated for C9H11NO2 : C 65.43%, H 6.71%, N 8.48%, Found C 65.41%, H 6.72%, N 8.48%.

reactant | 2-(4-chloro-3-nitrophenyl) propionic acid | 4.6 g | ClC1=C(C=C(C=C1)C(C(=O)O)C)[N+](=O)[O-] | C9H8ClNO4
reactant | hydrazine hydrate | 2.5 g | O.NN
reactant | hydrazine hydrate | 2.5 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 250 mg | [Pd] | Pd
catalyst | palladium-on-charcoal | 250 mg | [Pd] | Pd
product | 2-(m-aminophenyl)propionic acid | 3.0 g | NC=1C=C(C=CC1)C(C(=O)O)C | C9H11NO2
